US08877760B2
To a mixture of 3,5-dichloropyrazine-2-carbonitrile (208 mg, 1.19 mmol) and (R)-benzyl 1-(amino(cyclopropyl)methyl)cyclopropylcarbamate HCl salt (350 mg, 1.19 mmol) in AcCN (2 mL) was added DIPEA (0.467 mL, 2.62 mmol). After stirring at room temperature for 3 h, it was diluted with EtOAc, washed with sat. NaHCO3, organic layer was separated and washed with brine, dried and concentrated to give (R)-benzyl-1-((6-chloro-5-cyanopyrazin-2-ylamino)(cyclopropyl)methyl)cyclopropylcarbamate (480 mg).

reactant | 3,5-dichloropyrazine-2-carbonitrile | 1.19 mmol, 208 mg | ClC=1C(=NC=C(N1)Cl)C#N | C5HCl2N3
reactant | (R)-benzyl 1-(amino(cyclopropyl)methyl)cyclopropylcarbamate HCl salt | 1.19 mmol, 350 mg | Cl.N[C@@H](C1(CC1)NC(OCC1=CC=CC=C1)=O)C1CC1
reactant | DIPEA | 2.62 mmol, 0.467 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | AcCN | 2 mL | C(=O)(C)C#N | C3H3NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (R)-benzyl-1-((6-chloro-5-cyanopyrazin-2-ylamino)(cyclopropyl)methyl)cyclopropylcarbamate | 480 mg | C(C1=CC=CC=C1)OC(NC1(CC1)[C@@H](C1CC1)NC1=NC(=C(N=C1)C#N)Cl)=O | C20H20ClN5O2
